US06589978B2
To a stirred suspension of (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid (4.05 g, 11.1 mmol) in toluene (60 ml) was added thionyl chloride (1.21 ml, 16.7 mmol) and the mixture was stirred at 80° C. for 1.5 h. Evaporation of the solvent yielded (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic chloride as a light brown solid.

reactant | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid | 11.1 mmol, 4.05 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C18H18FNO4S
reactant | thionyl chloride | 16.7 mmol, 1.21 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic chloride | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)Cl | C18H17ClFNO3S
